US06509467B1
Preparation of N-Benzyl-1-methyl-6,7-dimethoxy-3,4-dihydroisoquinolinium bromide
To a stirred solution of 1-methyl-6,7-dimethoxy-3,4-dihydroisoquinoline in acetone was added benzyl bromide and the reaction mixture was stirred at room temperature for 16 hours. A yellow precipitate formed which was filtered, washed with ice cold acetone and dried in vacuo. The product was further purified by recrystallisation from a hexane/dichloromethane mix and pentane to afford the desired compound in 81% yield.

reactant | 1-methyl-6,7-dimethoxy-3,4-dihydroisoquinoline | CC1=NCCC2=CC(=C(C=C12)OC)OC | C12H15NO2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | CC(=O)C | C3H6O
product | N-Benzyl-1-methyl-6,7-dimethoxy-3,4-dihydroisoquinolinium bromide | 81% yield | [Br-].C(C1=CC=CC=C1)[N+]1=C(C2=CC(=C(C=C2CC1)OC)OC)C | InChI=1S/C19H22NO2.BrH/c1-14-17-12-19(22-3)18(21-2)11-16(17)9-10-20(14)13-15-7-5-4-6-8-15;/h4-8,11-12H,9-10,13H2,1-3H3;1H/q+1;/p-1
